US09388189B2
(S)-2-(1-((5-(1-(3-Hydroxy-2,2-dimethylpropyl)-1H-pyrazol-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(1-(3-Hydroxy-2,2-dimethylpropyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (4 mg, 0.01 mmol) was treated with trifluoroacetic acid (1 mL, 13 mmol) and a solution of ammonia (7N in methanol, 5 mL, 35 mmol) according to the method described in Example 27 to give 3.2 mg (100% yield) of the title compound. Purity 85%.

reactant | (S)-2-(1-((5-(1-(3-Hydroxy-2,2-dimethylpropyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.01 mmol, 4 mg | OCC(CN1N=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)(C)C | C35H45N9O3Si
reactant | trifluoroacetic acid | 13 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 35 mmol, 7N, 5 mL | N | H3N
product | (S)-2-(1-((5-(1-(3-Hydroxy-2,2-dimethylpropyl)-1H-pyrazol-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 3.2 mg, 100% yield | OCC(CN1N=C(C=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)(C)C | C29H31N9O2
